US03976672
The procedure described in Example 1 was employed except that 7.74 g (42.5 mmoles) of 4-tolyl vinyl sulfone, 7.0 g (42.5 mmoles) of trimethyltin hydride and 10 ml of tetrahydrofuran were the reactants and solvent. The irradiation proceeded for 14.75 hours. Evaporation of solvent afforded an oil which crystallized on standing. Recrystallization of the product from cold petroleum ether gave 10.8 g of 2-(p-tolylsulfonyl)ethyltrimethylstannane, m.p. 55.5°-58°C. The presence of both the sulfonyl and trimethyltin groups was indicated by the strong infrared absorption bands at 1310 cm-1, 1295 cm-1, 1260 cm-1, 1145 cm-1 (--SO2 --) and 750 cm-1 ((CH3)3Sn) employing a KBr disc. Nuclear magnetic resonance spectroscopy (NMR) showed the following:

reactant | 4-tolyl vinyl sulfone | 42.5 mmoles, 7.74 g | C(=C)S(=O)(=O)C1=CC=C(C=C1)C | C9H10O2S
reactant | trimethyltin hydride | 42.5 mmoles, 7.0 g | C[SnH](C)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(p-tolylsulfonyl)ethyltrimethylstannane | 10.8 g | C1(=CC=C(C=C1)S(=O)(=O)CC[Sn](C)(C)C)C | InChI=1S/C9H11O2S.3CH3.Sn/c1-3-12(10,11)9-6-4-8(2)5-7-9;;;;/h4-7H,1,3H2,2H3;3*1H3;
